US04236002
(-)-α-Amino-3-(bromomethyl)-4-hydroxybenzeneacetic acid hydrobromide
To a solution of (-)-α-amino-4-hydroxybenzeneacetic acid (0.6 mole) in a minimum amount of concentrated hydrobromic acid at 35°-40° C. is added 50 ml of aqueous formaldehyde (35-37%) (0.6 mole). The addition of hydrogen bromide gas is begun. After 5-10 minutes, a solid begins to precipitate. Stirring is continued for 30 minutes. The title compound is collected and washed with ether and acetone.

reactant | (-)-α-amino-4-hydroxybenzeneacetic acid | 0.6 mole | NC(C(=O)O)C1=CC=C(C=C1)O | C8H9NO3
reactant | hydrobromic acid | Br | BrH
reactant | formaldehyde | 0.6 mole, 50 ml | C=O | CH2O
product | (-)-α-Amino-3-(bromomethyl)-4-hydroxybenzeneacetic acid hydrobromide | Br.NC(C(=O)O)C1=CC(=C(C=C1)O)CBr | InChI=1S/C9H10BrNO3.BrH/c10-4-6-3-5(1-2-7(6)12)8(11)9(13)14;/h1-3,8,12H,4,11H2,(H,13,14);1H
